US04835171
21 g (0.103 mole) of N-(2-isopropylvinyl)-N-tert.-butylcarbamyl chloride are added dropwise to a suspension of 10.5 g (0.115 mole) of sodium 1,2,4-triazolide in 100 ml of dry tetrahydrofuran at 20° C. The mixture is stirred for 6 hours at 65° C., after which it is cooled to 20° C., the resulting precipitate is filtered off under suction, the filtrate is evaporated down and the oil which remains is distilled under reduced pressure. 13.6 g of 1-(N-(2-isopropylvinyl)-N-tert.-butylcarbamoyl)-1,2,4-triazole are obtained as a colorless liquid of boiling point 95°-97° C./0.15 mbar and nD 1.4815 (Compound No. 2)

reactant | N-(2-isopropylvinyl)-N-tert.-butylcarbamyl chloride | 0.103 mole, 21 g | C(C)(C)C=CN(C(=O)Cl)C(C)(C)C | C10H18ClNO
reactant | sodium 1,2,4-triazolide | 0.115 mole, 10.5 g | N1N=[C-]N=C1.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(N-(2-isopropylvinyl)-N-tert.-butylcarbamoyl)-1,2,4-triazole | 13.6 g | C(C)(C)C=CN(C(=O)N1N=CN=C1)C(C)(C)C | C12H20N4O
